US08304419B2
Step D: 5-({2-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]ethyl}oxy)-1-{[(1,1-dimethylethyl)oxy]carbonyl}-1H-indole-2-carboxylic acid
To a solution of 1-(1,1-dimethylethyl)2-ethyl 5-({2-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]ethyl}oxy)-1H-indole-1,2-dicarboxylate (167 mg, 0.385 mmol) in MeOH (2 mL) was added 1N LiOH (0.58 mL). A precipitate appeared and THF (2 mL) was added. The solution was stirred until TLC showed the starting material had been consumed. The reaction mixture was quenched with 1N HCl (0.58 mL) and the solvent evaporated. The residue was dissolved in EtOAc and extracted with 1N NaOH. The aqueous layer was acidified with conc. HCl until a precipitate formed and then partitioned with EtOAc. The organic layer was separated, dried over MgSO4 and the solvent evaporated. The crude material was directly with no further purification.

reactant | 1-(1,1-dimethylethyl)2-ethyl 5-({2-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]ethyl}oxy)-1H-indole-1,2-dicarboxylate | 0.385 mmol, 167 mg | CC1(OC[C@@H](O1)CCOC=1C=C2C=C(N(C2=CC1)C(=O)OCCC(C)(C)C)C(=O)[O-])C
reactant | LiOH | 1N, 0.58 mL | [Li+].[OH-]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | MeOH | 2 mL | CO | CH4O
product | 5-({2-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]ethyl}oxy)-1-{[(1,1-dimethylethyl)oxy]carbonyl}-1H-indole-2-carboxylic acid | CC1(OC[C@@H](O1)CCOC=1C=C2C=C(N(C2=CC1)C(=O)OC(C)(C)C)C(=O)O)C | C21H27NO7
